Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
divalproex sodium
 
Attending: ___
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with breast cancer s/p XRT, HTN, and
bipolar disorder who presents with vertigo and gait instability.
This morning, she was getting into her car, she felt a bit
unsteady. After 1 mile of driving, she felt like her entire 
world
was spinning. She pulled off the side of the road but found that
she had difficulty locating the brake. She did not swerve while
on the road. Also had trouble getting out of the car because she
felt very unsteady on her feet-not necessarily weak but more 
than
she did not know where her feet were. Had some slight nausea,
felt better when she put her head down or closed her eyes.
Currently has a cold. Denies headache, turning her head quickly
to look for traffic. This episode was similar to prior episodes
of vertigo except for the room spinning sensation. Of note,
yesterday evening she took an advil pm around 11pm. Also had ___
glass of wine around 5pm. 

She has had about 5 episodes of vertigo in the last ___ years.
They all come on randomly without any apparent provocation.
Usually, the ground would feel uneven, and she would have a hard
time moving and seeing. At times, her speech would slur or she
would have difficulty finding words. Sometimes she shakes back
and forth (she could not explain this phenomenon clearly even
with repeated prompting. Does not appear to be rhythmic, never
loses consciousness, did not bit tongue or have urinary
incontinence). Needs to sit badly, sometimes couldn't walk. Also
says that she thinks her anxiety plays a role. Symptoms are at
their worst during the ___ hour and gradually get better over 
the
next 4 hours and subsequently stop. 

She was last seen in the ED ___ as a code stroke for 
vertigo,
inability to walk, and difficulty using her arms. Episode
happened in setting of taking an extra dose of lamictal in the
morning instead of just one pill. 15 minutes afterwards, she
started to feel unsteady without lightheadedness or room
spinning. She sat down and started having bilateral shaking
movements of her upper extremities but was able to stop them by
grabbing the side of the table. She tried to pick up a glass of
juice, but she could not feel where her arm was in space and
could not direct it to the right place. Had to use a rolling
chair to get to where she needed to go because she was unable to
walk. 

First time she experienced vertigo was in ___ when she was
camping near the ___. Needed to hold on to walls to
get to the bathroom. There was a question of alcohol involvement
at the time. MRI showed no evidence of stroke at that time. Had
several more episodes that year, and they all felt like she had 
a
sensation of stepping on air and not being able to feel her foot
hit the ground. Follows with Dr. ___ but is transitioning
care to Dr. ___. Appointment is this coming ___.

Husband things panic plays a large role in these symptoms. 

Symptoms did start getting better while she was in the emergency
room just sitting in bed but still present at time of exam.

ROS: On neurologic review of systems, the patient endorses
vertigo, and gait difficulty. She denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, tinnitus, hearing difficulty, dysarthria, or 
dysphagia.
Denies focal muscle weakness, numbness, parasthesia. Denies loss
of sensation. Denies bowel or bladder incontinence or retention. 


On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
 
Past Medical History:
Breast cancer (0.4-cm grade 2 infiltrating carcinoma with ductal
and lobular features of the left breast with a single negative
sentinel node, ER positive, PR positive, HER-2 negative) in
remission
Hypertension
Hyperlipidemia
Bipolar disorder

 
Social History:
___
Family History:
Father with ___, manic depression, and seasonal
allergies. Mother with TIA and diabetes. Sister with skin cancer
 
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T: 99.6F  HR: 61  BP: 139/83  RR: 16  SaO2: 100% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 4->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. On head
impulse test, saccadic correction when head turned to the left.
Negative ___. No non-fatiguing nystagmus (continued for
about 15 beats but did fatigue).

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5
 
- Reflexes: 
      [Bic] [___] [Quad] [Gastroc]
 L     2+    2+      2+        1
 R     2+    2+      2+        1 
Plantar response flexor bilaterally

- Sensory: No deficits to light touch or pinprick bilaterally.  

- Coordination: No dysmetria with finger to nose testing
bilaterally. Had difficulty with finger tapping on L hand, some
difficulty tapping R shin with L foot. Mild truncal ataxia
present. Some past pointing especially on the L when asked to
mirror movements.

- Gait: able to stand with feet apart, but once feet together
swayed quite a bit even with eyes open. Unable to ___ in 
place.

 
Pertinent Results:
LAB DATA:

    13.4           141|105|12       
5.1>----<156       -----------<118                
    40.2           4.9|25|0.8      
 
IMAGING:
___ ___: no acute intracranial process

MRI BRAIN

FINDINGS:  
  
Study is mildly degraded by motion.  There is no evidence of 
hemorrhage, 
edema, masses, mass effect, midline shift or infarction.  There 
is prominence 
of the ventricles and sulci suggestive involutional changes.  
Periventricular 
and subcortical T2 and FLAIR hyperintensities are noted, which 
may represent 
small vessel ischemic changes. 
  
IMPRESSION: 
  
  
1. Study is mildly degraded by motion. 
2.  No acute intracranial abnormality. 
3.  Atrophy, probable small vessel ischemic changes as 
described. 

 
Brief Hospital Course:
This is a ___ woman with HTN, hx breast cancer, and vertigo who 
presents with acute onset vertigo and gait instability.  The 
symptoms started while she was driving and she felt it 
intensified over the course of minutes. She describes 
environmental spinning and had some difficulty reaching the 
brake with her foot. Also felt that she could not reach a bottle 
of water with her hand. Felt unsteady on her feet
while emerging from the car. Physical exam in the ED was 
initially notable for question of truncal ataxia, trouble with 
rapid movements on the L, trouble with mirroring on the L, and 
difficulty walking though these findings were not evident on 
repeat exam following morning.  Negative head impulse, neg 
Unterberger, no cerebellar findings.  She has end-gaze nystagmus 
in the setting of lamictal.  ED Symptoms were initially 
concerning for posterior circulation TIA/stroke, however CTA and 
MRI were negative, echo showed no cardioembolic source, and the 
overall suspicion for TIA was felt low.

On further history it was found that she has had similar 
episodes in the past (~4)-typically she feels unsteady on her 
feet but is able to walk. The typical
duration of these episodes is between ___ hours. Acknowledges a 
h/o headaches as a young adult and motion sickness in childhood. 
Father had migraines.  We think vestibular migraine is a 
reasonable alternative diagnosis.  Meniere's disease felt less 
likely in the absence of ear symptoms, but she warrants 
outpatient audiometry
to rule out hearing loss.  The question of underlying component 
of cervical disease was raised and could be further evaluated as 
outpatient.

She will continue aspirin daily and will follow up with Dr. 
___ in Neurology ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LaMOTrigine 200 mg PO BID 
2. Anastrozole 1 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Anastrozole 1 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. LaMOTrigine 200 mg PO BID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine-associated vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized due to symptoms of vertigo (room 
spinning). When you arrived, your blood pressure was within a 
normal range.  We also found that your cholesterol level was a 
little elevated elevated (LDL=120).  CTA and MRI of your brain 
did not show any evidence of stroke. Your presentation is most 
consistent with migraine-associated vertigo (also called 
vestibular migraine). Please follow-up with Dr. ___ as 
scheduled. Please follow up with your primary care physician in 
the next ___ weeks. Your primary care doctor can refer you for 
an audiometry evalution (hearing evaluation). You were given a 
script for outpatient physical therapy.

It was a pleasure meeting you!
Your ___ Neurology Team

 
Followup Instructions:
___